US07122557B2
N-({4-[3-Cyano-1-(4-methoxy-phenyl)-7-oxo-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-phenyl}-dimethylamino-methylene)-methanesulfonamide
N,N-Dimethylformamide (0.1 mL) was added to acetonitrile (10 mL) and cooled to 0° C. Oxalyl chloride (0.113 mL, 1.29 mmol) was added to the reaction. Once gas evolution stopped, 6-[4-(dimethylamino-methanesulfonylimino-methyl)-phenyl]-1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid amide (0.020 g, 0.039 mmol) was dissolved in acetonitrile (2 mL) and added to the reaction and stirred at 0° C. for 20 min. Pyridine (1 mL) was then added to the reaction, and it was warmed to rt and stirred overnight. The reaction was quenched with 1N hydrogen chloride (50 mL), extracted with ether 3×50 mL), washed with brine (1×50 mL), dried with MgSO4, and concentrated. Purification by reverse phase HPLC and freeze-dried to afford the title compound (0.014 g, 72%): 1H NMR (CHCl3) δ 7.45 (d, j=8.8 Hz, 2H), 7.40 (d, j=1.1 Hz, 4H), 6.95 (d, j=8.7 Hz, 2H), 4.21 (t, j=6.6 Hz, 2H), 3.83 (s, 3H), 3.19 (s, 3H), 3.17 (t, j=6.1 Hz, 2H), 2.94 (s, 3H), 2.81 (s, 3H) ppm; Mass Spec 493.5 (M+H)+.

reactant | N,N-Dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
reactant | Oxalyl chloride | 1.29 mmol, 0.113 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-[4-(dimethylamino-methanesulfonylimino-methyl)-phenyl]-1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid amide | 0.039 mmol, 0.020 g | CN(C)C(C1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(=O)N)=O)=NS(=O)(=O)C | C24H26N6O5S
reactant | Pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-({4-[3-Cyano-1-(4-methoxy-phenyl)-7-oxo-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-phenyl}-dimethylamino-methylene)-methanesulfonamide | 0.014 g, 72% | C(#N)C1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)C(=NS(=O)(=O)C)N(C)C)=O)C2=CC=C(C=C2)OC | C24H24N6O4S
